2136-03-02 07:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2136-3-1**] 02:31 PM
 DIALYSIS CATHETER - START [**2136-3-1**] 02:33 PM
 STOOL CULTURE - At [**2136-3-1**] 07:04 PM
   cdiff
 NASAL SWAB - At [**2136-3-1**] 07:04 PM
   [**2136-3-1**]:
   Patient continues to ooze from thoracentesis site. Dr. [**Last Name (STitle) 356**] had long
   conversation with patient's father. Pt now DNR, but is to be intubated
   for ventilatory support. Vasopressors are okay. Increased pain
   overnight received morphine 1mg IV x 1
   Allergies:
   Ibuprofen
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2136-3-1**] 08:36 PM
   Vancomycin - [**2136-3-2**] 05:22 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2136-3-1**] 08:36 PM
   Morphine Sulfate - [**2136-3-2**] 12:13 AM
   Other medications:
   Changes to medical and family history:
   No changes
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   No changes
   Flowsheet Data as of  [**2136-3-2**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**37**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.7
C (98.1
   HR: 119 (104 - 119) bpm
   BP: 99/46(58) {99/46(58) - 131/77(119)} mmHg
   RR: 30 (22 - 30) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
           Total In:
                                                                  2,204 mL
                                                                    806 mL
   PO:
                                                                    240 mL
           TF:
                                                                    358 mL
                                                                    323 mL
   IVF:
                                                                    231 mL
                                                                    233 mL
   Blood products:
                                                                  1,375 mL
                                                                    251 mL
   Total out:
                                                                      0 mL
                                                                     75 mL
   Urine:
   75 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,204 mL
                                                                    732 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ///26/
   Physical Examination
   General: chronically ill-appearing man, NAD, + jaundice
   HEENT: Marked scleral icterus with R subconjunctival hemorrhage, MMM
   with lip bleeding
   Neck: supple, JVP not elevated, no LAD
   Lungs: Breath sounds difficult to evaluate on the left due to pressure
   dressing, clear on the right
   CV: tachycardic, regular rhythm, normal S1 + S2, no murmurs, rubs,
   gallops
   Abdomen:  distended with hypoactive bowel sounds, diffusely tender to
   palpation without rebound, + asterixis
   GU: no foley
   Ext: 2+ pulses
   Labs / Radiology
   89 K/uL
   8.7 g/dL
   185 mg/dL
   2.4 mg/dL
   26 mEq/L
   4.1 mEq/L
   44 mg/dL
   101 mEq/L
   140 mEq/L
   25.1 %
   10.8 K/uL
         [image002.jpg]
                             [**2136-3-1**]  03:01 PM
                             [**2136-3-1**]  09:22 PM
                             [**2136-3-2**]  01:54 AM
   WBC
   13.6
   10.8
   Hct
   25.8
   25.3
   25.1
   Plt
   108
   89
   Cr
   2.8
   2.4
   Glucose
   96
   185
   Other labs: PT / PTT / INR:19.3/36.8/1.8, ALT / AST:25/73, Alk Phos / T
   Bili:146/24.9, Fibrinogen:302 mg/dL, Lactic Acid:2.9 mmol/L,
   Albumin:2.5 g/dL, Ca++:9.5 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   31 yo M w/ biliary atresia s/p liver transplant, cirrhosis, ESRD on HD,
   MSSA bacteremia, recurrent empyemas, pericardial window, presents with
   respiratory distress and bleeding with thoracentesis.
   .
   1. Respiratory Distress:  Likely due to empyema, metabolic
   derangement.  Is now s/p thoracentesis with blood in pleural fluid as
   well as low pH suggesting exudative infection.  Thoracentesis was
   complicated by significant bleeding post-procedure, posing concern for
   hemothorax.  Due to liver failure and ESRD, he has dysfunctional
   platelets and low levels of clotting factors.  He has received 2 units
   of FFP prior to thoracentesis, and 3 additional units following
   procedure given oozing from site. Received DDVAP yesterday morning.
   - will monitor respiratory status closely with concerns for hemothorax
   - F/U with thoracic surgery for and possible definitive procedure for
   empyema given low pH and HCT of 12.5 in pleural fluid
   - Trend CXR
   - oxygen for comfort
   .
   2. Continued Bleeding
 will be difficult to correct his coagulopathy
   due to underlying medical co-morbidities and worsening liver function.
   - receiving pRBC transfusion now, will obtain post transfusion HCT
   - FFP x 2, additional pRBC
   - Serial HCTs and coags
   - Amicar gtt (continuous)
   - DDAVP daily for 3 days (currently day 2 of 3)
   - Dialysis may be helpful in correcting platelet dysfunction, though
   patient may be too tenuous for HD or UF.
   - can consider topical fibrin to help with hemostasis of thoracentesis
   site
   .
   3. Low grade Temps, Leukocytosis: Concern for worsening infection.  He
   is s/p 7 days of Vanc/Cefepime which ended [**2136-2-27**] for VAP. He has a hx
   of MSSA bacteremia and empyema and was on Nafcillin, then Cefazolin
   dosed with HD.  His is on PO Vancomycin for emperic C. Diff coverage
   with multiple C. Diff samples negative.  He has a history of
   Strongyloides antibody positive s/p 1 dose of Ivermectin.  Abx were
   broadened yesterday to Vanc/Cefepime.  WBC trending down today, patient
   afebrile.
   - will continue broad spectrum antibiotcs with Vanc/Cefepime
   - f/u culture data include blood, stool and pleural fluid
   - continue prednisone at 10mg PO qday for adrenal insufficiency
   - f/u ID recs
   - d/c PO vancomycin
   .
   4. Worsening Liver Failure: s/p liver transplant at age 4 for biliar
   atresia.  Bilirubin has climbed to 28 since [**2-11**] with rise in INR and
   drop in platelets.  Unclear precipitant. RUQ u/s without new portal
   vein thrombus or ascites.  Infection may be the preciptating factor
   given empyema.  No signs of GI bleeding but has bleeding into pleural
   space.
   - continue to trend daily LFTs
   - f/u with thoracic regarding definative management of empyema and
   possiblity of listing for renal transplant
   - liver recs
   - transplant recs
   - daily tacro levels
   - lactulose [**Hospital1 **] for encephalopathy
   .
   5. ESRD on HD: Dialysis on T/Thurs/Sat. Course complicated by HD line
   infection with MSSA, now s/p new line.
   - continue abx dosed with HD
   - nephrology recs
   - Will F/U with renal team on timing of HD given bleeding
   .
   6. Adrenal insufficiency: Low cortisol level while septic in ICU.  Has
   been tapered to hydrocort 50mg IV BID [**2-25**], to prednisone 20mg daily on
   [**2-27**].  Got Prednisone 15mg on [**2-29**], 10mg on [**3-1**].
   - will continue Prednisone 10mg PO qday
   - No stress dose steroids in light of large infectious burden
   .
   .
   # FEN: IVF PRN, replete electrolytes with HD, NPO for now pending
   thoracics recs
   .
   # Prophylaxis:
   -DVT ppx with pneumoboots
   -Bowel regimen lactulose  (hold for diarrhea)
   -Pain management with home regimen of oxycodone
   -PPI
   # Access: PICC line, HD catheter
   # Code: DNR but OK to intubate (family wants time to be at bedside)
   # Communication: Patient; family meeting today at 1300 with Dr. [**Last Name (STitle) 356**]
   # Emergency Contact:  Father: [**Name (NI) 8405**] [**Name (NI) 8404**]: [**Telephone/Fax (1) 12491**]
   # Disposition: ICU
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2136-3-1**] 04:03 PM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2136-3-1**] 02:31 PM
   Dialysis Catheter - [**2136-3-1**] 02:33 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2136-03-03 06:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2136-3-2**]:
   - Family meeting coordinated by liver team today: patient now CMO
   - Stopping all meds except those for comfort; no intubation and no
   further transfusions or labs
   - Plan to transfer pt back to [**Hospital Ward Name 383**] 10 where nurses know him in AM
   Allergies:
   Ibuprofen
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2136-3-1**] 08:36 PM
   Vancomycin - [**2136-3-2**] 05:22 AM
   Infusions:
   Morphine Sulfate - 2 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-3-3**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**37**] AM
   Tmax: 37
C (98.6
   Tcurrent: 35.9
C (96.6
   HR: 102 (100 - 121) bpm
   BP: 90/60(67) {81/41(55) - 133/73(86)} mmHg
   RR: 16 (14 - 32) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,982 mL
                                                                     14 mL
   PO:
             TF:
                                                                    722 mL
   IVF:
                                                                    365 mL
                                                                     14 mL
   Blood products:
                                                                    895 mL
   Total out:
                                                                     75 mL
                                                                      0 mL
   Urine:
                                                                     75 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,907 mL
                                                                     14 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ////
   Physical Examination
   Labs / Radiology
 NO NEW LABS/STUDIES
   89 K/uL
   8.7 g/dL
   185 mg/dL
   2.4 mg/dL
   26 mEq/L
   4.1 mEq/L
   44 mg/dL
   101 mEq/L
   140 mEq/L
   23.5 %
   10.8 K/uL
         [image002.jpg]
                             [**2136-3-1**]  03:01 PM
                             [**2136-3-1**]  09:22 PM
                             [**2136-3-2**]  01:54 AM
                             [**2136-3-2**]  12:24 PM
   WBC
   13.6
   10.8
   Hct
   25.8
   25.3
   25.1
   23.5
   Plt
   108
   89
   Cr
   2.8
   2.4
   Glucose
   96
   185
   Other labs: PT / PTT / INR:20.3/42.5/1.9, ALT / AST:25/73, Alk Phos / T
   Bili:146/24.9, Fibrinogen:302 mg/dL, Lactic Acid:2.9 mmol/L,
   Albumin:2.5 g/dL, Ca++:9.5 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   31 yo M w/ biliary atresia s/p liver transplant, cirrhosis, ESRD on HD,
   MSSA bacteremia, recurrent empyemas, pericardial window, presents with
   respiratory distress and bleeding with thoracentesis. Patient failed to
   respond appropriately to transfusions yesterday and has had continued
   bleeding. Family meeting led by Dr. [**Last Name (STitle) 356**] resulted in decision to make
   patient CMO.
   1. Respiratory Distress: Breathing appears labored but patient
   generally denies subjective SOB.
   - Continue nebs PRN
   - Oxygen PRN (will not intubate)
   2. Continued Bleeding: Dressing changes PRN. Patient continues to ooze.
   - No further transfusions
   - Not trending Hct, plts
   - Lidocaine patch to site of thoracentesis for pain control
   3. Low grade Temps, Leukocytosis:
   - No longer trending labs or imaging
   - Off antibiotics
   4. Worsening Liver Failure: Patient not a transplant candidate.
   - Consider lactulose PRN if helpful for mental status, interaction with
   family
   5. ESRD on HD:
   - No further HD
   6. Adrenal insufficiency:
   - No further medications
   7. Pain control: Patient currently reporting minimal pain.
   - Lidocaine patch as above
   - IV morphine (consider drip if pain worsens)
   # FEN: IVF PRN, replete electrolytes with HD, diet as tolerated
   # Prophylaxis:
   -DVT ppx with pneumoboots
   -Bowel regimen lactulose  (hold for diarrhea)
   -Pain management with home regimen of oxycodone
   -PPI
   # Access: PICC line, HD catheter
   # Code: DNR but OK to intubate (family wants time to be at bedside)
   # Communication: Patient; family meeting today at 1300 with Dr. [**Last Name (STitle) 356**]
   # Emergency Contact:  Father: [**Name (NI) 8405**] [**Name (NI) 8404**]: [**Telephone/Fax (1) 12491**]
   # Disposition: Plan to transfer to [**Hospital Ward Name 383**] 10 this morning
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2136-3-1**] 02:31 PM
   Dialysis Catheter - [**2136-3-1**] 02:33 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition:
   ------ Protected Section ------
   Patient was made CMO after family meeting yesterday.  Family and
   friends very present visiting pt.  Pain is being well controlled.  No
   further labs, transfusions or procedures.  Awaiting private bed on
   floor.  Continue supportive care focused on keeping pt comfortable.
   ------ Protected Section Addendum Entered By:[**Name (NI) 174**] [**Last Name (NamePattern1) 911**], MD
   on:[**2136-3-3**] 15:48 ------